US03935209
A solution of 9.6 g. 1-acetamido-2-nitro-4-thiocyanatobenzene in 60 ml. dimethylformamide is treated under nitrogen with 1.52 g. of sodium borohydride, the exothermic reaction being controlled so that the temperature does not exceed 30°C. After stirring the mixture at 20°-25°C. for 1 hour, 15 ml. of acetone is added, then, after 2 hours, 9.1 g. of 2-chloropyrazine is added. The mixture is warmed slowly and kept at 100°-110°C. for 3 hours, cooled and diluted with water. The product is filtered off and washed with water, pentane and recrystallized from methanol affording 1-acetamido-2-nitro-4-(pyrazin-2-ylthio)benzene.

reactant | 1-acetamido-2-nitro-4-thiocyanatobenzene | C(C)(=O)NC1=C(C=C(C=C1)SC#N)[N+](=O)[O-] | C9H7N3O3S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium borohydride | [BH4-].[Na+]
reactant | 2-chloropyrazine | ClC1=NC=CN=C1 | C4H3ClN2
solvent | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 1-acetamido-2-nitro-4-(pyrazin-2-ylthio)benzene | C(C)(=O)NC1=C(C=C(C=C1)SC1=NC=CN=C1)[N+](=O)[O-] | C12H10N4O3S
